US08106070B2
Triethylamine (0.02 mL, 0.16 mmol) followed by methyl chloroformate (5 μL, 0.05 mmol) were added to an ambient temperature solution of tert-butyl 2-{1-amino-2-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-4-(2,2-dimethylbutyl)-1H-imidazole-1-carboxylate (24 mg, 0.05 mmol). After stirring at ambient temperature for 1 h, the reaction mixture was quenched with water and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Preparatory plate chromatography eluting with 20% ethyl acetate/hexane afforded tert-butyl 4-(2,2-dimethylbutyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-[(methoxy carbonyl)amino]ethyl}-1H-imidazole-1-carboxylate.

reactant | Triethylamine | 0.16 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.05 mmol, 5 μL | ClC(=O)OC | C2H3ClO2
reactant | tert-butyl 2-{1-amino-2-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-4-(2,2-dimethylbutyl)-1H-imidazole-1-carboxylate | 0.05 mmol, 24 mg | NC(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)C=1N(C=C(N1)CC(CC)(C)C)C(=O)OC(C)(C)C | C27H35FN4O2
product | tert-butyl 4-(2,2-dimethylbutyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-[(methoxy carbonyl)amino]ethyl}-1H-imidazole-1-carboxylate | CC(CC=1N=C(N(C1)C(=O)OC(C)(C)C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)NC(=O)OC)(CC)C | C29H37FN4O4
